US08133907B2
N-tert-Butyl-2-methyl-6-trifluoromethyl-nicotinamide
N-tert-Butyl-2-methyl-6-trifluoromethyl-nicotinic acid (5.0 g, 24 mmol) is refluxed in 10 mL of thionyl chloride for 3 h and is then concentrated under reduced pressure. The residue is dissolved in toluene and the solvent is removed under reduced pressure. The residue is again dissolved in toluene and the solvent is removed under reduced pressure. The resultant residue is dissolved in 50 mL of dichloromethane and to the solution is added tert-butyl amine (3.8 mL, 49 mmol) and triethylamine (6.8 mL, 49 mmol) and the reaction is allowed to stir overnight. The reaction is then poured into sat. ammonium chloride and extracted three times with dichloromethane. The combined organic phases are then washed with sat. NaHCO3, and brine. The organic layer is then dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford the title compound. Further purification is achieved by trituration from diethyl ether.

reactant | N-tert-Butyl-2-methyl-6-trifluoromethyl-nicotinic acid | 24 mmol, 5.0 g | C(C)(C)(C)N1C(C(C(=O)O)=CC=C1C(F)(F)F)C | C12H16F3NO2
reactant | tert-butyl amine | 49 mmol, 3.8 mL | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 49 mmol, 6.8 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | N-tert-Butyl-2-methyl-6-trifluoromethyl-nicotinamide | C(C)(C)(C)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O | C12H15F3N2O
